Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
Penicillins / Keflex / Erythromycin Base
 
Attending: ___.
 
Chief Complaint:
___ year old female status post gastric bypass surgery in 
___, now presents with epigastric pain and burning.
 
Major Surgical or Invasive Procedure:
EGD
 
History of Present Illness:
She awoke with sharp focal abdominal pain and tenderness in the 
epigastrum. Endorses nausea, no vomiting. No fevers or chills. 
Normal BM and urination. Recently treated for ear infection with 
antibiotic. 
 
Past Medical History:
morbid obesity, GERD, osteoarthritis, asthma  
PSHx: s/p lap chole, s/p kne surgery  

 
Social History:
___
Family History:
Family history is noted for father
living age ___ with heart disease, diabetes, hyperlipidemia,
arthritis and obesity; mother living age ___ with thyroid 
disease;
sister age ___ with asthma; grandparents deceased with heart
disease, arthritis and obesity; grandmother deceased age ___ with
stroke. 
 
Physical Exam:
Afebrile, AVSS
alert and orientated times 3, no distress, sitting up in bed
CV: RRR no MRG
Respiratory: Clear to auscultation bilaterally
Abdomen: soft, focal tenderness just below xiphoid in epigastrum 
and radiating to the right side. No bowel sounds auscultatable, 
scars and skin consistent with prior gastric bypass surgery.

 
Pertinent Results:
___ 05:45AM BLOOD WBC-5.1 RBC-4.17* Hgb-12.5 Hct-37.0 
MCV-89 MCH-29.9 MCHC-33.7 RDW-13.9 Plt ___
___ 04:00PM BLOOD WBC-6.4 RBC-4.14* Hgb-12.5 Hct-36.2 
MCV-88 MCH-30.2 MCHC-34.5 RDW-13.9 Plt ___
___ 04:00PM BLOOD Plt ___
___ 05:45AM BLOOD ___ PTT-37.9* ___
___ 04:00PM BLOOD Glucose-83 UreaN-10 Creat-0.8 Na-139 
K-4.1 Cl-104 HCO3-26 AnGap-13
___ 05:45AM BLOOD Glucose-95 UreaN-7 Creat-0.7 Na-140 K-4.1 
Cl-106 HCO3-27 AnGap-11
___ 04:00PM BLOOD ALT-20 AST-22 AlkPhos-50 TotBili-0.5
___ 05:45AM BLOOD Calcium-8.8 Phos-3.9 Mg-2.1

 
EGD: Normal mucosa was noted with a few small erosions localized 
to the anastamosis site.  
Duodenum:  
Mucosa: Erythema of the mucosa was noted in the efferent limb 
consistant with mild jejunitis.  
Impression: Normal mucosa in the esophagus  
Normal mucosa in the stomach  
Erythema in the duodenum  

 
Brief Hospital Course:
Patient admitted on ___, supported with intravenous fluids, 
proton pump inhibitors and kept nothing by mouth. On hospital 
day one she had an EGD confirming small erosions around 
anastomosis. She was tested for H. Pylori and started back on a 
bariatric stage one diet and progressed slowly. Hospital day two 
she had some pain and nausea with protein shake. Sulcrafate 4 
times a day started and intravenous pantoprazole continued. Now 
tolerating stage 5 bariatric diet. Will continue PPI and 
sulcrafate at home.
 
Medications on Admission:
MVI, Calcium wafers, Coumading 12.5' m-f, 10' ___ and ___, 
Ranitidine 20' 
 
Discharge Medications:
1. Sucralfate 1 gram Tablet Sig: One (1) Tablet ___ QID (4 times 
a day).
Disp:*120 Tablet(s)* Refills:*2*
2. Prevacid SoluTab 30 mg Tablet,Rapid Dissolve, ___ Sig: One (1) 
Tablet,Rapid Dissolve, ___ ___ a day.
Disp:*30 Tablet,Rapid Dissolve, ___ Refills:*2*
3. medication
Coumadin 12.5mg M - F, 10mg ___. and ___.
Follow up with primary care physician for blood testing and 
dosing.

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Gastritis with small ulcers

 
Discharge Condition:
Stable

 
Discharge Instructions:
Please call your doctor or return to the emergency room if you 
have any of the following:
 
 * You experience new chest pain, pressure, squeezing or 
 tightness.
 
* New or worsening cough or wheezing.
 
* If you are vomiting and cannot keep in fluids or your 
 medications.
 
* You are getting dehydrated due to continued vomiting, 
 diarrhea or other reasons. Signs of dehydration include dry 
 mouth, rapid heartbeat or feeling dizzy or faint when standing.
 
* You see blood or dark/black material when you vomit or have a 
 bowel movement.
 

* You have shaking chills, or a fever greater than 101.5 (F) 
 degrees or 38(C) degrees.
 
* Any serious change in your symptoms, or any new symptoms that 
 concern you. 
 
* Please resume all regular home medications and take any new 
meds 
 as ordered.  

 
Followup Instructions:
___